US05238938
There were mixed 1.00 g of 5-amino-6-ethoxycarbonyl-3-isobutyl-1,2-dihydropyrazin-2-one 4-oxide, 1.18 g of potassium hydrogencarbonate (powder), 20 ml of dry dimethylformamide and 932 μl of benzyl bromide. The mixture was stirred for 16 hours at room temperature to effect a reaction. After completion of the reaction, the reaction mixture was poured into 50 ml of ethyl acetate. The resulting mixture was washed with 30 ml of water three times. The aqueous layer was extracted with 30 ml of ethyl acetate twice. The extract was combined with the above ethyl acetate layer. The combined solution was washed with 30 ml of water twice, and dried over magnesium sulfate. The solvent was removed by evaporation. The residue was recrystallized from ethanol to obtain 1.06 g of 2-amino-5-benzyloxy-3-ethoxycarbonyl-6-isobutylpyrazine 1-oxide (Compound B-10) as pale yellow fine needle-like crystals having a melting point of 114.5°-115.5° C.

reactant | 5-amino-6-ethoxycarbonyl-3-isobutyl-1,2-dihydropyrazin-2-one 4-oxide | 1.00 g | NC=1[N+](=C(C(NC1C(=O)OCC)=O)CC(C)C)[O-] | C11H17N3O4
reactant | potassium hydrogencarbonate | 1.18 g | C(O)([O-])=O.[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 932 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-5-benzyloxy-3-ethoxycarbonyl-6-isobutylpyrazine 1-oxide | 1.06 g | NC1=[N+](C(=C(N=C1C(=O)OCC)OCC1=CC=CC=C1)CC(C)C)[O-] | C18H23N3O4
